US07713993B2
Synthesis of ethyl (E)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acrylimidate
A suspension of (E)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acrylonitrile (700 mg) in ethanol (6 mL) was saturated with hydrogen chloride gas under ice-cooling, and then the reaction solution was stirred at 0° C. overnight. Diethyl ether (10 mL) was added to the reaction solution. The precipitate was removed by filtration, and the filtrate was concentrated under reduced pressure. Ethyl acetate and a saturated sodium bicarbonate solution were added to the resulting residue, and the organic layer was separated. The organic layer washed with brine, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (elution solvent: heptane-ethyl acetate-ethanol system) to obtain 127 mg of the title compound. The property values of the compound are as follows.

reactant | (E)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acrylonitrile | 700 mg | COC=1C=C(C=CC1N1C=NC(=C1)C)/C=C/C#N | C14H13N3O
reactant | hydrogen chloride | Cl | ClH
reactant | Diethyl ether | 10 mL | C(C)OCC | C4H10O
solvent | ethanol | 6 mL | C(C)O | C2H6O
product | ethyl (E)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acrylimidate | 127 mg | COC=1C=C(C=CC1N1C=NC(=C1)C)/C=C/C(OCC)=N | C16H19N3O2
